US06121285
1-[(3S,4R)-1-Benzyloxycarbonyl-4-methyl-3-Pyrrolidinyl]cyclopropanecarboxylic acid
(3S,4R)-1-Benzyloxycarbonyl-3-(1-ethoxycarbonylcyclopropyl)-4-methylpyrrolidine (1.17 g, 3.66 mmol) was dissolved in ethanol (100 ml), and the solution was mixed with a 1 N sodium hydroxide aqueous solution (11 ml) and heated under reflux for 8 hours. After completing the reaction, the solvent was evaporated and the resulting residue was mixed with a 0.5 N hydrochloric acid aqueous solution (30 ml). This was extracted with ethyl acetate (50 ml×3), and the organic layer was washed with water (50 ml) and saturated sodium chloride aqueous solution (50 ml) in that order. This was dried over anhydrous sodium sulfate and then the solvent was evaporated to obtain 1.20 g of the title compound quantitatively.

reactant | (3S,4R)-1-Benzyloxycarbonyl-3-(1-ethoxycarbonylcyclopropyl)-4-methylpyrrolidine | 3.66 mmol, 1.17 g | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]([C@H](C1)C)C1(CC1)C(=O)OCC | C19H25NO4
reactant | sodium hydroxide | 1 N, 11 ml | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-[(3S,4R)-1-Benzyloxycarbonyl-4-methyl-3-Pyrrolidinyl]cyclopropanecarboxylic acid | 1.20 g | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]([C@H](C1)C)C1(CC1)C(=O)O | C17H21NO4
